US06525220B2
N-(5-Methoxy-2-nitrophenyl)-N-t-butoxycarbonylcarbamic acid t-butyl ester (Exemplification Compound Number 1-2)
To a solution of 5-methoxy-2-nitroaniline (4.8 g) in ethyl acetate (70 ml) were added dimethylaminopyridine (177 mg) and di-t-butyl dicarbonate (13.9 g) and the mixture was stirred at 25° C. for 3 hours. At the end of this time the reaction mixture was cooled to room temperature and concentrated in vacuo to give the title compound (10.6 g, yield 101%).

reactant | 5-methoxy-2-nitroaniline | 4.8 g | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
reactant | di-t-butyl dicarbonate | 13.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | dimethylaminopyridine | 177 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | N-(5-Methoxy-2-nitrophenyl)-N-t-butoxycarbonylcarbamic acid t-butyl ester | 10.6 g, yield 101% | C(C)(C)(C)OC(N(C(=O)OC(C)(C)C)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C17H24N2O7
